*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 8.29.2003 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
V3 1 0 DC -10V
V2 2 0 DC 10V
V1 vin 0 DC 1V
.INCLUDE /home/david/gaf/vanderpauw/Simulation.cmd
X1 vin vout 2 1 vout comp2 comp1 LT1008 
***
*
* NODES 1 AND 8 = COMPENSATION PINS
*
.SUBCKT LT1008     3 2 7 4 6 1 8
*
* USE C=30 PF IN MAIN CIRCUIT (CA TO CB).
* INPUT
RC1 7 80 8.842E+03
RC2 7 90 8.842E+03
Q1 80 2 10 QM1
Q2 90 3 11 QM2
DDM1 2 3 DM2
DDM2 3 2 DM2
C1 80 90 8.660E-12
RE1 10 12 2.246E+02
RE2 11 12 2.246E+02
IEE 12 4 6.000E-06
RE 12 0 3.333E+07
CE 12 0 1.579E-12
* INTERMEDIATE
GCM 0 8 12 0 2.841E-11
GA 8 0 80 90 1.131E-04
R2 8 0 1.000E+05
* EXTERNAL COMP CAP USED FOR C2 (SEE NOTE ABOVE).
GB 1 0 8 0 1.960E+02
* OUTPUT
RO1 1 6 1.000E+02
RO2 1 0 9.000E+02
RC 17 0 6.802E-05
GC 0 17 6 0 1.470E+04
D1 1 17 DM1
D2 17 1 DM1
D3 6 13 DM2
D4 14 6 DM2
VC 7 13 1.774E+00
VE 14 4 1.774E+00
IP 7 4 3.740E-04
DSUB 4 7 DM2
* MODELS
.MODEL QM1 NPN (IS=8.000E-16 BF=6.667E+04)
.MODEL QM2 NPN (IS=8.009E-16 BF=2.000E+05)
.MODEL DM1 D (IS=4.276E-12)
.MODEL DM2 D (IS=8.000E-16)
.ENDS LT1008
*
***
R1 vout 0 1k 
.END
